US05407936
5-Chloro-1-isopropylbenzimidazol-2-one (81 g) in phosphorus oxychloride (207 g) was refluxed for 1 hour. The mixture was left to stand for cooling and then the reaction mixture was poured into ice-water and extracted with ethyl acetate. The ethyl acetate layer was washed with an aqueous sodium hydroxide solution, water and dried over anhydrous magnesium sulfate and then the solvent was distilled off under reduced pressure. To the residue was added acetonitrile (400 ml) and the insoluble material was removed by filtration and the solvent was distilled off under reduced pressure to give 2,5-dichloro-1-isopropylbenzimidazole (73 g). A part of the obtained product was subjected to silica gel column chromatography [eluted with chloroform] and recrystallized from hexane, which showed the following physical properties:

reactant | 5-Chloro-1-isopropylbenzimidazol-2-one | 81 g | ClC1=CC2=C(N(C(N2)=O)C(C)C)C=C1 | C10H11ClN2O
reactant | phosphorus oxychloride | 207 g | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 2,5-dichloro-1-isopropylbenzimidazole | 73 g | ClC1=NC2=C(N1C(C)C)C=CC(=C2)Cl | C10H10Cl2N2
